US08242104B2
To a solution of 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid amide (2.40 g, 0.00907 mol) in Toluene (40 mL) was added 1,1-Dimethoxy-N,N-dimethylmethanamine (4.82 mL, 0.0363 mol). The flask was sealed and heated to 95° C. for 8 h. The reaction was deemed complete by TLC. The solvent was removed in vacuo to give 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-methylideneamide which was used crude. MS (ESI+) 320.1

reactant | 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid amide | 0.00907 mol, 2.40 g | ClC1=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C=N1 | C11H9ClN4O2
reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 0.0363 mol, 4.82 mL | COC(N(C)C)OC | C5H13NO2
solvent | Toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-methylideneamide | CN(C=NC(=O)C1=CN2CCOC3=C(C2=N1)C=NC(=C3)Cl)C | C14H14ClN5O2
